US07728030B2
(S)-benzyl 4-(2,4-difluorophenoxy)-3-oxobutan-2-ylcarbamate (305d)
A mixture of (S)-benzyl 4-bromo-3-oxobutan-2-ylcarbamate (prepared according to R. V. Hoffman et al., J. Org. Chem. 2001, 66, 5790-5795) (600 mg, 2.00 mmol), 2,4-difluorophenol (312 mg, 2.40 mmol) and potassium fluoride (380 mg, 6.54 mmol) in DMF (4 mL) was stirred at r.t. for 17 h. Water (15 mL) and dichloromethane (3 mL) were added and the mixture was stirred for 30 min. The mixture was added to a phase separator. The water phase was once more stirred with dichloromethane (3 mL), and added to the phase separator. The organic phases were concentrated and the residue was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 3/1) to give the title compound as a white solid (658 mg, 94% yield).

reactant | (S)-benzyl 4-bromo-3-oxobutan-2-ylcarbamate | 2.00 mmol, 600 mg | BrCC([C@H](C)NC(OCC1=CC=CC=C1)=O)=O | C12H14BrNO3
reactant | 2,4-difluorophenol | 2.40 mmol, 312 mg | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | potassium fluoride | 6.54 mmol, 380 mg | [F-].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | Water | 15 mL | O | H2O
product | (S)-benzyl 4-(2,4-difluorophenoxy)-3-oxobutan-2-ylcarbamate | 658 mg, 94% yield | FC1=C(OCC([C@H](C)NC(OCC2=CC=CC=C2)=O)=O)C=CC(=C1)F | C18H17F2NO4
